US04894385
Methyl 4-[1-(2,4-dimethoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
10.9 ml of trifluoroacetic acid were added, whilst ice-cooling, to a mixture of 766 mg of methyl 4-mercaptobenzoate and 754 mg of 1-[2-hydroxy-2-(2,4-dimethoxyphenyl)ethyl]imidazole, and the resulting mixture was stirred at a temperature between 0° and 5° C. for 1.5 hours. The resulting solution was treated and purified according to the same procedure as described in Example 13, to give 495 mg of the title compound as a colorless oily substance.

reactant | trifluoroacetic acid | 10.9 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 4-mercaptobenzoate | 766 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-hydroxy-2-(2,4-dimethoxyphenyl)ethyl]imidazole | 754 mg | OC(CN1C=NC=C1)C1=C(C=C(C=C1)OC)OC | C13H16N2O3
product | Methyl 4-[1-(2,4-dimethoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 495 mg | COC1=C(C=CC(=C1)OC)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C21H22N2O4S
